US06537948B1
Into a solution of 227 mg of triphosgene in 8 ml of ethyl acetate, a solution of 155 mg of triethylamine and 250 mg of 4-chloro-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyloxy}aniline in 8 ml of ethyl acetate was added at 0° C. The mixture was stirred for 30 minutes at the same temperature, then for 2 hours at reflux temperature. The reaction solution was filterated while it was hot, and the solvent was distilled off under reduced pressure to obtain 266 mg of 4-chloro-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyloxy}phenyl isocyanate.

reactant | triphosgene | 227 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 155 mg | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyloxy}aniline | 250 mg | ClC1=CC(=C(N)C=C1OC=1C(=NC=CC1)OCC(=O)OC)F | C14H12ClFN2O4
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
product | 4-chloro-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyloxy}phenyl isocyanate | 266 mg | ClC1=CC(=C(C=C1OC=1C(=NC=CC1)OCC(=O)OC)N=C=O)F | C15H10ClFN2O5
